US07208495B2
3-(4-(trifluoromethyl)phenyl)-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol
Using 1-bromo-4-(trifluoromethyl)benzene and 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine obtained in Reference Example 13, the title compound was synthesized in the same manner as in Example 33. Yield 91%. mp. 181–183° C. (hexane).

reactant | 1-bromo-4-(trifluoromethyl)benzene | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
solvent | hexane | CCCCCC | C6H14
product | 3-(4-(trifluoromethyl)phenyl)-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | Yield 91% | FC(C1=CC=C(C=C1)C1(C(OC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)(C)C)O)(F)F | C31H35F3N2O3
